US06967201B1
1-(5-fluoro-6-chlorobenzofur-7-yl)piperazine Hydrochloride
Beginning with 0.26 gm (1.06 mMol) 5-fluoro-6-chloro-7-bromobenzofuran and 0.22 gm (1.16 mMol) 1-tert-butoxycarbonylpiperazine, the title compound was prepared essentially as described in GENERAL PROCEDURE II.

reactant | 5-fluoro-6-chloro-7-bromobenzofuran | 1.06 mMol, 0.26 gm | FC=1C(=C(C2=C(C=CO2)C1)Br)Cl | C8H3BrClFO
reactant | 1-tert-butoxycarbonylpiperazine | 1.16 mMol, 0.22 gm | C(C)(C)(C)OC(=O)N1CCNCC1 | C9H18N2O2
product | 1-(5-fluoro-6-chlorobenzofur-7-yl)piperazine Hydrochloride | Cl.FC=1C(=C(C2=C(C=CO2)C1)N1CCNCC1)Cl | InChI=1S/C12H12ClFN2O.ClH/c13-10-9(14)7-8-1-6-17-12(8)11(10)16-4-2-15-3-5-16;/h1,6-7,15H,2-5H2;1H
